US04088695
Sodium hydroxide (13.2 g.) in water (660 ml.) was added to aleuritic acid (100 g.)and the suspension stirred at 0° to 10° C. To the resulting suspension of sodium aleuritate was added sodium periodate (80 g.) in water (800 ml.) over 1 hour, without allowing the temperature to rise above 15° C. Dichloromethane (200 ml.) was then added and the mixture stirred for a further 2.5 hours at 15° C. A further amount of dichloromethane (300 ml.) and saturated aqueous sodium bicarbonate (100 ml.) were added and the mixture vigorously stirred. The precipitated sodium iodate was removed by filtration and the dichloromethane layer separated. The aqueous phase was washed with dichloromethane (500 ml.) and the combined dichloromethane extracts dried over anhydrous magnesium sulphate. Removal of the dichloromethane in vacuo below 40° C. gave 7-hydroxyheptanal (43 g.), νmax 3400 cm-1, 2700 cm-1, 1710 cm-1.

reactant | Sodium hydroxide | 13.2 g | [OH-].[Na+]
reactant | aleuritic acid | C(CCCC(C(CCCCCCO)O)O)CCCC(=O)O | C16H32O5
reactant | sodium | [Na] | Na
reactant | sodium periodate | 80 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | water | 660 ml | O | H2O
solvent | water | 800 ml | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 7-hydroxyheptanal | 43 g | OCCCCCCC=O | C7H14O2
